US07608627B2
Deprotection of tert-butyl 3-[(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)oxy]piperidine-1-carboxylate with methylhydrazine following the procedure described for the preparation of Reference Example 9 gave tert-butyl 3-(aminooxy)piperidine-1-carboxylate (1.0 g, 73%) as an off-white, waxy solid: 1H NMR (500 MHz, CDCl3) δ 1.34-1.39 (1H, m), 1.47 (9H, s), 1.69-1.76 (3H, m), 3.12-3.26 (1.5H, m), 3.45-3.60 (3H, m), 3.77-3.83 (0.5H, m), 3.37-5.47 (2H, m).

reactant | tert-butyl 3-[(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)oxy]piperidine-1-carboxylate | O=C1N(C(C2=CC=CC=C12)=O)OC1CN(CCC1)C(=O)OC(C)(C)C | C18H22N2O5
reactant | methylhydrazine | CNN | CH6N2
product | tert-butyl 3-(aminooxy)piperidine-1-carboxylate | 1.0 g, 73% | NOC1CN(CCC1)C(=O)OC(C)(C)C | C10H20N2O3
